US06407130B1
b) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-isobutyl-[3-(4-cyanophenyl)-propionamide]
3-(p-cyanophenyl)-propionic acid (0.69 g, 3.9 mmol) in 15 mL chloroform is combined with 1.3 mL of thionyl chloride and refluxed for 3 h. The solvent and the excess thionyl chloride are distilled off, the residue is dissolved in 10 mL of dichloromethane and added dropwise to a solution of 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-isobutylamino-benzimidazole (1.25 g, 3.8 mmol) and 1.3 mL N-methylmorpholine in 50 mL dichloromethane. This is refluxed for 0.5 h, cooled, mixed with water and extracted into the organic phase. It is washed with dilute, aqueous NaOH and with water, dried and evaporated down. The product is further reacted without being purified.

reactant | 3-(p-cyanophenyl)-propionic acid | 3.9 mmol, 0.69 g | C(#N)C1=CC=C(C=C1)CCC(=O)O | C10H9NO2
reactant | thionyl chloride | 1.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-isobutylamino-benzimidazole | 3.8 mmol, 1.25 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NCC(C)C | C21H24N4
reactant | N-methylmorpholine | 1.3 mL | CN1CCOCC1 | C5H11NO
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-isobutyl-[3-(4-cyanophenyl)-propionamide] | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)N(C(CCC2=CC=C(C=C2)C#N)=O)CC(C)C | C31H31N5O
